US04108999
(S)-3-Methylthio-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinolinium iodide (20 g) is added in small portions to a solution of 2,6-diaminopyridine (60 g) in pyridine (400 cc). The suspension passes rapidly into solution. After 15 hours at a temperature of about 20° C the solution is concentrated to dryness under reduced pressure (25 mm Hg). The residue is taken up in methylene chloride (500 cc); the insoluble material (47 g) consists of 2,6-diaminopyridine. The methylene chloride solution is washed with water (3 × 100 cc), dried over magnesium sulphate, filtered and then concentrated to dryness under reduced pressure (20 mm Hg). After addition to the residue obtained of a mixture (250 cc) of water and ethanol (4:1 by volume) the mixture is heated to the boiling point. After cooling to 5° C the resulting crystals are filtered off and washed with ethanol (50 cc) to give (S)-3-[(6-aminopyrid-2-yl)imino]-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinoline (11 g) in the form of white crystals melting at 128° C.

reactant | (S)-3-Methylthio-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinolinium iodide | 20 g | [I-].CSC=1SC[C@H]2[N+]1CC=1C=CC=CC1C2
reactant | 2,6-diaminopyridine | 60 g | NC1=NC(=CC=C1)N | C5H7N3
solvent | pyridine | 400 cc | N1=CC=CC=C1 | C5H5N
product | (S)-3-[(6-aminopyrid-2-yl)imino]-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinoline | 11 g | NC1=CC=CC(=N1)N=C1SC[C@H]2N1CC=1C=CC=CC1C2 | C16H16N4S
